US09102684B2
5-Bromo-3-methyl-3-phenyl-1,3-dihydro-indol-2-one
A mixture of 2-(5-Bromo-2-nitro-phenyl)-2-phenyl-propionic acid methyl ester (5.9 g, 16.25 mmol) and iron powder (3.64 g, 65 mmol) in acetic acid (100 mL) is heated to 70° C. and stirred for 3 hours. The acetic acid is removed in vacuo. The residue is diluted with satu. aq. NH4Cl solution and extracted with ethyl acetate (3×100 mL). The combined organic phase is washed with water and brine, dried over Na2SO4, filtered and concentrated. The residue is recrystallized by ethyl acetate to give the desired product. Yield: 3.5 g (71%)

reactant | 2-(5-Bromo-2-nitro-phenyl)-2-phenyl-propionic acid methyl ester | 16.25 mmol, 5.9 g | COC(C(C)(C1=CC=CC=C1)C1=C(C=CC(=C1)Br)[N+](=O)[O-])=O | C16H14BrNO4
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 65 mmol, 3.64 g | [Fe] | Fe
product | 5-Bromo-3-methyl-3-phenyl-1,3-dihydro-indol-2-one | BrC=1C=C2C(C(NC2=CC1)=O)(C1=CC=CC=C1)C | C15H12BrNO
